US08859534B2
N-(4-Morpholinophenyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (60 mg, 0.16 mmol) and 4-morpholinoaniline (37 mg, 0.20 mmol). Yield: 38 mg (44%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.16 mmol, 60 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | 4-morpholinoaniline | 0.20 mmol, 37 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
product | N-(4-Morpholinophenyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | O1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2 | C30H33N5O3
